US09388189B2
(S)-2-(1-((6-Amino-5-(1H-pyrazol-4-yl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
The title compound was prepared following the experimental procedure described in Example 3 from 100 mg (0.21 mmol) of (S)-2-(1-((6-amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one and 62 mg (0.32 mmol) of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole. The mixture was stirred at 80° C. for 18 hours and then an excess of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (62 mg), palladium catalyst (19 mg) and aqueous sodium carbonate solution (320 μl) were added and the reaction mixture was stirred at 80° C. for 24 hours more. The product was purified by flash chromatography (0% to 15%, dichloromethane-methanol) to obtain 25 mg (29% yield) of the title compound.

reactant | (S)-2-(1-((6-amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.21 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.32 mmol, 62 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 62 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
catalyst | palladium | 19 mg | [Pd] | Pd
solvent | sodium carbonate | 320 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(1H-pyrazol-4-yl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 25 mg, 29% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)C=2C=NNC2 | C21H19N9O
